US06458781B1
Preparation of (S)-2-Dimethylamino-4-methyl-pentanoic acid [4,4-bis-(4-fluoro-phenyl)-butyl]-amide monohydrochloride
A solution of (S)-2-dimethylamino-4-methyl-pentanoic acid (433 mg, 2.72 mmol), N-methylmorpholine (0.275 mL, 2.50 mmol), and 4,4-bis-(4-fluoro-phenyl)-butylamine monohydrochloride (809 mg, 2.72 mmol) in dry DMF (12 mL) was treated with Triton® B (1.80 mL, 3.96 mmol, 40 weight percent solution in methanol, Aldrich, Milwaukee, Wis.). The clear solution was cooled to 0° C. in an ice-water bath. Solid O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (1.03 g, 2.72 mmol) was then added. After stirring at 0° C. for 30 minutes, the cooling bath was removed, and the stirring was continued at ambient temperature for 15 minutes. After this period, the reaction mixture was mixed with 60 mL of diethyl ether, white precipitate forms and was removed by filtration. The filtrate was successively washed with saturated aqueous NaHCO3 solution (50 mL), brine (2×50 mL), and was dried over Na2SO4. The solution was concentrated in vacuo affording a viscous oil. The crude product was purified by flash chromatography (5% MeOH in 1:1 EtOAc/hexanes). The free amine was dissolved in 5 mL of ethyl ether and treated with ethereal HCl to afford 361 mg (30%) of the pure titled compound as a white foam; mp 60-72° C. APCI-MS m/z 403.3 (MH+).

reactant | (S)-2-dimethylamino-4-methyl-pentanoic acid | 2.72 mmol, 433 mg | CN([C@H](C(=O)O)CC(C)C)C | C8H17NO2
reactant | N-methylmorpholine | 2.50 mmol, 0.275 mL | CN1CCOCC1 | C5H11NO
reactant | 4,4-bis-(4-fluoro-phenyl)-butylamine monohydrochloride | 2.72 mmol, 809 mg | Cl.FC1=CC=C(C=C1)C(CCCN)C1=CC=C(C=C1)F
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 2.72 mmol, 1.03 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
product | (S)-2-Dimethylamino-4-methyl-pentanoic acid [4,4-bis-(4-fluoro-phenyl)-butyl]-amide monohydrochloride | 361 mg, 30% | Cl.FC1=CC=C(C=C1)C(CCCNC([C@H](CC(C)C)N(C)C)=O)C1=CC=C(C=C1)F | InChI=1S/C24H32F2N2O.ClH/c1-17(2)16-23(28(3)4)24(29)27-15-5-6-22(18-7-11-20(25)12-8-18)19-9-13-21(26)14-10-19;/h7-14,17,22-23H,5-6,15-16H2,1-4H3,(H,27,29);1H/t23-;/m0./s1
